US05252571
Ethyl 2-[4-(benzothiazol-2-yl)methyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-yl]acetate
A mixture of 208 mg of ethyl 2-(4-cyanomethyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-yl)acetate and 116 mg of 2-aminothiophenol hydrochloride was heated at 180° C. for 15 minutes to fuse them. After the mixture had been cooled, water was added, and then extracted with ethyl acetate. After the drying of the organic layer over anhydrous magnesium sulfate, the solvent was distilled off. The resulting oily matter was purified by silica gel chromatography to give 196 mg of the title compound. The structural formula and physical data of this compound are shown in Table 15.

reactant | ethyl 2-(4-cyanomethyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-yl)acetate | 208 mg | C(#N)CN1C(C(SC2=C1C=CC=C2)CC(=O)OCC)=O | C14H14N2O3S
reactant | 2-aminothiophenol hydrochloride | 116 mg | Cl.NC1=C(C=CC=C1)S
solvent | water | O | H2O
product | Ethyl 2-[4-(benzothiazol-2-yl)methyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-yl]acetate | 196 mg | S1C(=NC2=C1C=CC=C2)CN2C(C(SC1=C2C=CC=C1)CC(=O)OCC)=O | C20H18N2O3S2
